US04886817
To a solution of 20 g of methyl (2E, 4E)-5-(2-chlorophenyl)-2,4-pentadienoate dissolved in 150 ml of toluene, 215 ml of diisobutylaluminum hydride (1.5M toluene solution) was added dropwise under ice-cooling over 1 hour. After stirring at the same temperature for 5 minutes, saturated aqueous ammonium chloride was slowly added, and the insolubles were filtered off. The filtrate was washed twice with saturated aqueous ammonium chloride, dried and then the solvent was distilled off to give 16.4 g of (2E, 4E)-5-(2-chlorophenyl)-2,4-pentadien-1-ol as an oily substance.

reactant | methyl (2E, 4E)-5-(2-chlorophenyl)-2,4-pentadienoate | 20 g | ClC1=C(C=CC=C1)/C=C/C=C/C(=O)OC | C12H11ClO2
reactant | diisobutylaluminum hydride | 1.5M, 215 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | (2E, 4E)-5-(2-chlorophenyl)-2,4-pentadien-1-ol | 16.4 g | ClC1=C(C=CC=C1)/C=C/C=C/CO | C11H11ClO
